Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've just been wishing and thinking about being
dead"

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: Mr. ___ is a ___ man 
with past psychiatric history of schizophrenia, depression, PTSD 
sectioned from PREP for suicidal ideation with plan to pass out 
and drown. 
.
Patient states that he feels that his opinion has changed over 
time regarding his need for hospitalization. He feels he is here 
because of "a lot of things" including his friend's suicide last 
month, his self-esteem, and feeling like he may never achieve 
the things he wanted in the time he has left to live, which may 
not be long "because of these thoughts." Patient has also been 
upset
about being unable to complete his final essay for his criminal 
justice class on ___. He found the reading material on 
murder distressing. Two nights prior to admission, patient began 
having thoughts of killing himself by "passing out." He 
researched ways to pass out, including holding his breath and 
putting his head between his legs. His attempt was unsuccessful
and he was able to go to bed without being distressed. When 
asked what he had been thinking at that time, he says "many 
things," but that he thinks he can "manage" outside of the 
hospital because "everyone has these thoughts." When asked about 
positive opioid screen, patient is surprised and denies using 
painkillers, heroin, opioid medications; denies using Seroquel. 
.
Denies AVH, homicidal ideation, current suicidal ideation. 
.
ED Course: Uneventful. Calm, cooperative. Friend and mother 
visited. No security intervention, mechanical or chemical 
restraint. No medications given. 
.
Per ___'s ___ initial ED consult note: 
___ M pmhx schizophrenia BIBEMS on ___ from ___ PREP 
program for SI with plan to drown himself in bathtub.
.
On interview patient reports that he had a friend who passed 
away by ?suicide recently, around ___. Since then he has had 
worsening depressive symptoms including low mood, low self 
esteem, insomnia, difficulty concentrating, and thoughts of 
death. He has been struggling more in school. However has still
been going to school, seeing friends, bathing, eating, etc. Last 
night, while awake and unable to sleep, he started researching 
ways to end his life. He was thinking about "passing out and 
drowning" in a bathtub and at one point intended to carry out 
this plan. He denies taking steps towards enacting this plan and 
was not able to say how he would pass out. Reports that although
he has many supportive people in his life, including his 
parents, sister, and friends, he does not discuss his mental 
health issues openly with them. Denies recent medication change; 
takes only monthly antipsychotic injections which he thinks he 
last got early this month.
.
Now reports that he wants to live. Asked what he wants to live 
for, says his family, the future, and seeing what technology 
there will be in the future.
.
He has a history of schizophrenia and ADD for which he was 
previously treated by a psychiatrist and therapist at ___, 
and recently transitioned to the PREP team this week. He reports 
a history of paranoia and vague auditory hallucinations. Denies 
experiencing these symptoms or other psychotic symptoms 
recently.
.
EMS report:"U\a at ___ staff at program requesting ___ 
transfer for ___ y\o male AOx4 warm\dry skin who was researching 
ways to kill himself on the computer last night. Pt calm and 
cooperative. Reports plan to drown himself in the bath tub. Pt 
reports med compliance. Transported without incident."

COLLATERAL: Per conversation between Dr. ___ 
psychiatrist ___ (___): ___ with first episode of psychosis at 
___. Treated at ___ previously, now on PREP for one 
week. Has been on several antipsychotics and LAIs. Now on 
Aristada (last injxn possibly on ___ (definitely within last 
___. Treated by Dr. ___. Fulltime student at ___ 
___. Worried he would fail a course. has a friend who hung 
himself recently. Last night (___) pt was researching methods 
of suffocating himself (was researching online). This AM told 
his mom he is suicidal. Concern that patient can appear safe but 
is not actually. ___ has been coordinating with Dr. ___ who is 
not aware of a history of chronic depression. No concern for 
comorbid substance use. Would likely need a free care bed. ___ 
might be able to take himand they had been trying to arrange 
admission there:
___ inpt unit: ___
___ ED SW: ___
. 
Mother ___ (___): He has been very withdrawn, 
barely comes home, says he's at a friend's party playing video 
games. He doesn't talk to us about what's going on. Last night 
was out, went to photo shoot and then gym. He could not sleep. 
Most nights he does not sleep. Have heard him singing or on his 
phone. Says he has "all these thoughts that come to mind". 
Yesterday he reported "I'm very stressed mom, I'm very 
stressed." Nothing really concerning to her knowledge, like 
statements about suicide or homicide or bizarre behavior, but 
hard to know what's going on since he doesn't talk. He knows the 
right thing to say to seem ok when he's not."
. 
Collateral: ___, MD, ___. Recent 
onset psychotic disorder. Met last week for intake and patient 
did not appear psychotic. ___, born in ___, ___. Hx of ADHD, 
depression, trauma. As child, impaired attention, took 
stimulants in grade school, stopped in middle school. Depressed 
when father returned to ___ ___ middle school. Sexual trauma by 
relative at age ___. Friend living in ___ murdered. Another 
friend died by
suicide. At ___. Insurance limited by ___ 
policy, worried about ambulance fees. No hx of suicide attempts. 

. 
Psychotic break in ___, sleeping poorly, shouting needed 
to be saved, guilty, saying he was "bad", suicidal ideation. 
Restarted on stimulant 1 month prior to break. Poor 
concentration, decreased grades, persecutory delusions, poor 
oral intake, self-dialoging about rescuing hostage per mother. 
___ may have emerged after friend's murder. Stimulant 
stopped and put on olanzapine. Trial of olanzapine, risperidone, 
now long-acting injectable. Tried paliperidone possibly. Rx by 
Dr. ___ at ___. 
.
Proximal triggers are suicide of friend, taking 4 courses at 
___ and did not finish paper. Required reading on subject 
of murder. Felt like a terrible failure. Jiggling leg, looked 
very agitated and upset. Asked about how dying would be helpful, 
states that when dead you just go away, and spoke about 
reuniting with friend/reincarnation. Patient relieved about idea 
of
hospitalization, then back-tracked when he realized he would 
have to go to the hospital right away. Worried with holidays 
coming, new arrival, relatively unknown. Suggest Lamictal if 
patient medication adherent or insurance sorted to provide home 
___ or quetiapine.  
.
ROS:
Psychiatric ROS
+sleep disturbance +fatigue +guilt +recent SI with plan
- loss of interest -change in appetite/weight -current SI
- violent or homicidal ideation -manic symptoms -hallucinations
- ideas of reference -thought broadcasting/insertion -paranoia 
or
persecutory delusions
+ anxiety +panic attacks (remote hx only)
+ trauma (childhood, did not elaborate) -PTSD symptoms"
.  
REVIEW OF SYSTEMS: A 10-point ROS negative.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Prior diagnoses: schizophrenia, depression, PTSD
- Hospitalizations: denies
- Psychiatrist/Therapist: Transitioning from Dr. ___ at ___
to PREP/___ with resident psychiatrist ___, under
supervision of Medical Director ___
- Medication/ECT trials: olanzapine, risperidone, paliperidone
- Suicide attempts: denies; wrote suicide note at age ___
- Self-injurious behavior: denies
- Harm to others: denies
- Trauma: childhood; sexually assaulted by relative at age ___
- Access to weapons: denies
.
PAST MEDICAL HISTORY:
None
. 
MEDICATIONS:
Aristada ___ aripiprazole) 662mg/2.4mL IM monthly
.
ALLERGIES: 
NKDA     

 
Social History:
SOCIAL HISTORY:
- Born/Raised: Born in ___, relocated to ___,
___.  
- Relationship status/Children: Single, none known. 
- Primary Supports: Parents and 2 sisters. Friends. 
- Housing: Lives with family. 
- Education: Full-time student at ___, 
studying ___. 
- Employment/Income: Walks dogs. 

SUBSTANCE USE HISTORY:
- Alcohol: denies / Denies history of blackouts, alcohol 
withdrawal, DTs, seizures.
- Tobacco: denies
- Marijuana: occasional use, last 1 month ago
- Other Drugs: Denies

FORENSIC HISTORY:
- Arrests: none known
- Convictions and jail terms: none known
- Current status (pending charges, probation, parole): N/A
 
Family History:
FAMILY PSYCHIATRIC HISTORY:
- Psychiatric Diagnoses: none known
- Suicide Attempts/Completed Suicides: none known
- Substance Use Disorders: none known
 
Physical Exam:
EXAM:
VS: T: 98.4, HR: 70, BP: 102/62, RR: 15, SpO2: 100% on RA

Physical Exam: 
GEN: well-appearing young Hispanic male, no acute distress
HEENT:  Normocephalic, atraumatic. Moist mucous membranes. 
Anicteric sclera. 
CV:  Regular rate, normal S1, S2. No murmurs/rubs/gallops. 
RESP: Non-labored. Clear to auscultation bilaterally. No 
wheezes/rales/rhonchi.  
ABD: Soft, non-tender, non-distended. Positive bowel sounds
EXT: Warm and well perfused. No gross deformity. No peripheral 
edema.
SKIN: No rashes or lesions noted.
 
Neurological Exam: 
- Cranial nerves: 
  II: PERRLA 
  III, IV, VI: extraocular movements intact. no nystagmus.
  V: facial sensation to touch equal in all 3 divisions
bilaterally
  VII: face symmetric  on eye closure and smile
  VIII: hearing normal bilaterally to rubbing fingers
  IX, X: palate elevates symmetrically
  XI: head turning and shoulder shrug intact
  XII: tongue midline. 
- Reflexes: 1+ and symmetrical biceps, brachioradialis, patellar
- Motor:  ___ biceps, triceps, iliopsoas, quadriceps, 
hamstrings. Normal bulk and tone. 
- Sensation: intact and symmetric to light touch. 
- Gait and station:  Good initiation. Narrow-based gait, normal 
stride and arm-swing. No ataxia noted. Normal coordination of 
finger to nose and heel to shin testing. 
- Abnormal movements:  No tremor or abnormal movements 
appreciated.
 
Cognition: Per initial ED consult by ___ on
___:
 "Wakefulness/alertness: alert, awake
 *Attention: able to say MOYB
 *Orientation: oriented to person, place, time, situation
 *Memory: ___ registration, ___ recall at 5min
 *Fund of knowledge: consistent with education, intact to last 3
presidents
 Calculations: $1.75 = "7" quarters  
 Abstraction: interprets book/cover proverb abstractly
 *Speech: normal rate, rhythm, volume; decreased prosody. brief
limited responses. 
 *Language: native ___, speaks fluently"
 
Mental Status:
- Appearance: Hispanic man appearing stated age, wearing 
hospital gown, in no apparent distress
- Behavior: Sitting upright, decreased eye contact. No
psychomotor agitation or retardation. playing with bangs. 
- Attitude: Cooperative, calm. 
- Mood: "stressed"
- Affect: Mood-congruent, blunted, appropriate to situation
- Thought process: Linear, coherent, goal-oriented, no loose 
associations
- Thought Content:
  Safety: Denies current SI/HI
  Delusions: No evidence of paranoia, etc. 
  Obsessions/Compulsions: No evidence based on current encounter
  Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
  Insight / Judgment: Limited / Poor
 
Pertinent Results:
___ 05:13PM BLOOD WBC-8.7 RBC-5.23 Hgb-13.7 Hct-42.5 
MCV-81* MCH-26.2 MCHC-32.2 RDW-13.2 RDWSD-38.7 Plt ___
___ 05:13PM BLOOD Neuts-61.8 ___ Monos-7.9 Eos-1.0 
Baso-0.6 NRBC-0.2* Im ___ AbsNeut-5.40 AbsLymp-2.49 
AbsMono-0.69 AbsEos-0.09 AbsBaso-0.05
___ 05:13PM BLOOD Glucose-93 UreaN-13 Creat-1.0 Na-141 
K-3.9 Cl-104 HCO3-27 AnGap-10
___ 05:13PM BLOOD ALT-8 AST-17 LD(___)-143 AlkPhos-65 
TotBili-0.5
___ 05:13PM BLOOD Albumin-4.4 Cholest-122
___ 05:13PM BLOOD Triglyc-91 HDL-43 CHOL/HD-2.8 LDLcalc-61
___ 05:13PM BLOOD VitB12-480
___ 05:19PM BLOOD %HbA1c-5.3 eAG-105
___ 05:13PM BLOOD TSH-0.43
___ 05:13PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 05:35PM URINE bnzodzp-NEG barbitr-NEG opiates-POS* 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 
 
___ 05:35PM URINE Color-Yellow Appear-Clear Sp ___
___ 05:35PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG 
Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 05:35PM URINE RBC-4* WBC-4 Bacteri-FEW* Yeast-NONE 
Epi-0 TransE-<1
 
Brief Hospital Course:
Mr. ___ is a ___ man with schizophrenia, sectioned 
from PREP for suicidal ideation with plan to drown himself in 
the setting of academic stressors and friend's recent suicide. 
.
On interview, patient appears slightly blunted and withdrawn, 
with short, concrete answers. He does endorse significant 
psychosocial stressors, with the deaths of two close friends by 
murder and suicide in the last year, and academic stressors 
related to the violent content of his criminal justice course. 
While patient denies any thoughts of hurting others, he does 
become visibly distressed thinking about these topics, with 
unclear indication whether patient has violent thoughts that he 
is unwilling to disclose.  ___ psychiatrist Dr. ___ has 
previously seen patient present as depressed with one reported 
psychotic episode earlier this year. Prior to admission, PREP 
team did not detect psychotic symptoms but were namely concerned 
for patient's safety. Per collateral, patient appeared to be 
withdrawn, with poor sleep, and plan to drown himself/ 
asphyxiate himself. Physical, cognitive, and neurological exams 
were unremarkable on presentation. 
.
During his hospitalization, patient was a pleasant member of the 
milieu, attended groups frequently, and was medication adherent 
and involved in his treatment planning. Patient was started on 
lamotrigine 25 mg which was well tolerated with notable 
improvement in mood, sleep, and racing thoughts with subsequent 
decrease in insomnia after improvement in anxiety symptoms. He 
was additionally offered lorazepam and remeron as needed 
nightly, which patient did not feel was helpful for him and was 
ultimately discontinued prior to discharge.  
.
Given unclear diagnostic picture, at this time presentation 
appears consistent with an unspecified mood disorder given 
reported hopelessness and anxiety with some manic features 
including mood lability, instability, and racing thoughts. As 
such, initiation of an antidepressant was deferred to outpatient 
psychiatrist.  
Uncontrolled psychotic symptoms and command auditory 
hallucinations were also considered, but were not elicited on 
exam. Etiology was thought less likely substance-induced, but 
positive opioid toxicology merits further consideration. Low 
suspicion for medical etiology given normal work-up. Discharge 
planning was discussed with patient, with formulation of a 
safety plan if patient were to feel depressed, hopeless, or 
suicidal in the future. 
.
PLAN:
#. Legal/Safety: Patient admitted on a ___, CV signed and 
accepted ___. He signed a 3-day notice on ___ which 
expired on ___. Given good behavioral control with 
consistent denial of SI, thoughts of self harm, I did not 
believe he met criteria to file a section 7&8b and he was 
discharged upon expiration of his 3 day notice. Of note, patient 
maintained his safety throughout his hospitalization on 15 
minute checks with no unsafe behaviors
.
#. Psychiatric: 
- Provided individual, group, and milieu therapy. Patient was a 
pleasant and sociable member of the milieu, visiting frequently 
with family and conversing with other peers. He contributed 
frequently to group therapy. 
- Obtained collateral information from mother, PREP psychiatry 
team Dr. ___, and ___ psychiatrist Dr. ___ 
___ as above. 
- To target mood instability and racing thoughts, patient was 
initiated on lamotrigine 25mg po qday, tolerated well without 
side effect or rash. Discussed risks and benefits, alternatives, 
and side effects including nausea, life-threatening rash with 
mucosal involvement.
- For poor sleep, provided lorazepam 0.5mg po qhs, Ramelteon 8mg 
po qhs PRN. This was discontinued prior to discharge given 
little to no perceived benefit per patient. 
- Offered hydroxyzine PRN for anxiety and risperidone PRN for 
agitation, which was not administered. 
- Patient consistently denied suicidal ideation and intent 
during hospitalization and MSE notable for thought process that 
was linear, logical, goal and future oriented. 
.
#. Schizophrenia
- While patient appeared concrete and slightly constricted on 
interview and cognitive exams, no positive psychotic symptoms 
were detected during hospitalization. He was generally linear 
and coherent in conversation. 
- Maintained on aripiprazole 2.4 mL long-acting injection; last 
administered on ___ per Dr. ___. Next due on ___. 
.
#. Substance Use: No active concerns. Patient did screen 
positively for opioid toxicology, but confirmatory analysis was 
not sent. Patient denied ever using prescription painkillers or 
heroin. No concerns from collateral sources; patient did not 
appear to be intoxicated on or withdrawing from opioids on 
admission. Could consider false positive sources of opioids, 
including quetiapine, diphenhydramine, poppy seeds, etc. 
However, would continue to monitor closely for substance use and 
screen appropriately if suspicion arises. 
. 
#. No acute medical issues during this hospitalization 
- Obtained TSH, HgBA1c, lipid panel, B12, RPR, and EKG; all 
within normal limits. No acute concerns. Outpatient PCP 
___.
.
#. Dispo:
- Discharged to ___ clinic for psychiatry and therapy; with PCP 
___ at ___. Family and patient amenable to plan. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aristada (ARIPiprazole lauroxil) 662 mg/2.4 mL intramuscular 
EVERY 4  WEEKS 

 
Discharge Medications:
1.  LamoTRIgine 25 mg PO DAILY 
RX *lamotrigine [Lamictal] 25 mg 1 tablet(s) by mouth daily Disp 
#*15 Tablet Refills:*0 
2.  Aristada (ARIPiprazole lauroxil) 662 mg/2.4 mL intramuscular 
EVERY 4  WEEKS (WE) 
Last administered ___. Next injection due ___.   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- unspecified mood disorder
- schizophrenia

 
Discharge Condition:
Vitals:  ___ ___ Temp: 97.6 PO BP: 122/79 HR: 57 RR: 18 O2 
sat: 97% 

Mental Status:
- Appearance: young Hispanic man appearing stated age, wearing
casual clothing, fair hygiene, appears to be in no acute
distress.  
- Behavior: Seated upright, appears calm, no observed 
psychomotor
agitation. 
- Attitude: Cooperative, engaged, friendly 
- Mood: 'pretty good' 
- Affect: Appeared blunted at times, though reactive 
- Thought process: Linear, coherent, goal-oriented, no loose
associations. Concrete.
- Thought Content:
  Safety: Denies current SI/HI
  Delusions: No evidence of paranoia, feels safe in hospital 
  Obsessions/Compulsions: No evidence based on current encounter 

  Hallucinations: Does not appear to be internally preoccupied.
No evidence of active perceptual disturbances.  
  Insight / Judgment: Limited / limited

COGNITION:
 Wakefulness/alertness: Alert
 *Attention: intact to interview
 *Orientation: grossly oriented
 *Memory: Grossly intact to interview
 *Speech: fluent, spontaneous, normal volume with some monotony
in tone. 
 *Language: fluent ___

Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___